US05000775
Methyl 2-[(1,1-dimethylethyl)amino]5-(2-chlorophenyl)-4-oxazolecarboxylate
By the procedure of Example 50, 12.35 g (50 mmol) of methyl 3-chloro-3-(o-chlorophenyl)pyruvate was reacted with 5.8 g (50 mmol) of tert-butyl urea at 105°-115° C. for 8 hours. The reaction mixture was cooled to ambient temperature and then diluted with methylene chloride, washed with water, dried over magnesium sulfate, and concentrated under reduced pressure to yield a yellow oil. This oil was purified by flash chromatography techniques on silic gel using 10% ethyl acetate in hexane as eluent. There was obtained 5.77 g of an orange viscous oil product identified in Table I.

reactant | methyl 3-chloro-3-(o-chlorophenyl)pyruvate | 50 mmol, 12.35 g | ClC(C(C(=O)OC)=O)C1=C(C=CC=C1)Cl | C10H8Cl2O3
reactant | tert-butyl urea | 50 mmol, 5.8 g | C(C)(C)(C)NC(=O)N | C5H12N2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 2-[(1,1-dimethylethyl)amino]5-(2-chlorophenyl)-4-oxazolecarboxylate | 5.77 g | CC(C)(C)NC=1OC(=C(N1)C(=O)OC)C1=C(C=CC=C1)Cl | C15H17ClN2O3
